US08541457B2
To a solution of 2-(tert-butoxycarbonylamino)-4-methylthiazole-5-carboxylic acid benzylamide (0.108 g, 0.31 mmol) in acetonitrile (10 mL) was added N-bromosuccinimide (0.071 g, 0.40 mmol). The resultant mixture was stirred at ambient temperature until the reaction was completed. The reaction mixture was concentrated in vacuo and the crude product was purified by flash column chromatography eluting with ethyl acetate/hexanes (5/95 to 100/0) to afford 2-(tert-butoxycarbonylamino)-4-bromomethylthiazole-5-carboxylic acid benzylamide (0.077 g, 58% yield).

reactant | 2-(tert-butoxycarbonylamino)-4-methylthiazole-5-carboxylic acid benzylamide | 0.31 mmol, 0.108 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(=O)OC(C)(C)C)C | C17H21N3O3S
reactant | N-bromosuccinimide | 0.40 mmol, 0.071 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-(tert-butoxycarbonylamino)-4-bromomethylthiazole-5-carboxylic acid benzylamide | 0.077 g, 58% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(=O)OC(C)(C)C)CBr | C17H20BrN3O3S
